US07521453B2
2-Aminomethyl-6-chloropyridine
A 1M solution of lithium aluminium hydride in THF (2.88 ml, 2.88 mmol) was added dropwise to a solution of 6-chloro-2-cyanopyridine (532 mg, 3.84 mmol) in THF (10 ml) at −5° C. under an atmosphere of nitrogen. The mixture was stirred at −5° C. for two hours and the reaction quenched by careful, sequential addition of water (0.1 ml), 15% aqueous sodium hydroxide solution (0.1 ml) and then water (0.3 ml). The mixture was stirred for one hour at 0° C., the insolubles removed by filtration and the filter pad washed thoroughly with methanol. The resulting solution was evaporated and the residue purified by column chromatography on silica gel eluting with DCM/methanol/ammonia (95:5:0 increasing in polarity to 90:10:1) to give the title compound. (215 mg, 40%) as an oil. NMR (DMSO): 2.10 (br s, 2H), 3.75 (s, 2H), 7.30 (d, 1H), 7.55 (d, 1H), 7.80 (t, 1H).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-chloro-2-cyanopyridine | 3.84 mmol, 532 mg | ClC1=CC=CC(=N1)C#N | C6H3ClN2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2.88 mmol, 2.88 ml | C1CCOC1 | C4H8O
product | 2-Aminomethyl-6-chloropyridine | NCC1=NC(=CC=C1)Cl | C6H7ClN2
